US04721809
N-[2-[bis(1-methylethyl)amino]ethyl]-N-(1-methylethyl)-4-[(trifluoromethylsulfonyl)amino]benzenesulfonamide
4-amino-N-[2-[bis(1-methylethyl)amino]ethyl]-N-(1-methylethyl)-benzenesulfonamide (2.0 g, 0.0058 m) in CH2Cl2 (50 ml) containing triethylamine (0.60 g, 0.0058 m) at 0° C. was treated with trifluoromethane sulfonic anhydride (0.976 ml, 0.0058 m) dropwise over one half hour. The solution was worked with aqueous sodium bicarbonate, then brine and stripped to give the crude product as a gum. Solution in 20 percent methanol/ethyl acetate produced the solid free base (1.87 g, m.r. 210°-213° C.(d).

reactant | 4-amino-N-[2-[bis(1-methylethyl)amino]ethyl]-N-(1-methylethyl)-benzenesulfonamide | 2.0 g | NC1=CC=C(C=C1)S(=O)(=O)N(C(C)C)CCN(C(C)C)C(C)C | C17H31N3O2S
reactant | triethylamine | 0.60 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 0.976 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | N-[2-[bis(1-methylethyl)amino]ethyl]-N-(1-methylethyl)-4-[(trifluoromethylsulfonyl)amino]benzenesulfonamide | CC(C)N(CCN(S(=O)(=O)C1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F)C(C)C)C(C)C | C18H30F3N3O4S2
